.title kicad schematic

.lib /home/om_11/ihp/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
xm8 net-_m4-d_ net-_m6-b_ net-_m12-d_ net-_m12-d_ sg13_hv_nmos
xm12 net-_m12-d_ net-_m11-d_ esim_gnd esim_gnd sg13_hv_nmos
xm9 net-_m10-g_ net-_m10-g_ esim_gnd esim_gnd sg13_hv_nmos
xm5 iin iin net-_m10-g_ net-_m10-g_ sg13_hv_nmos
r2 iout_rg iout 330
xm11 net-_m11-d_ net-_m10-b_ esim_gnd esim_gnd sg13_hv_nmos
xm10 net-_m10-d_ net-_m10-g_ esim_gnd net-_m10-b_ sg13_hv_nmos
xm6 net-_m3-d_ iin net-_m10-d_ net-_m6-b_ sg13_hv_nmos
xm7 iout net-_m4-d_ net-_m11-d_ net-_m11-d_ sg13_hv_nmos
xm4 net-_m4-d_ net-_m3-d_ net-_m2-d_ net-_m2-d_ sg13_hv_pmos
xm2 net-_m2-d_ net-_m1-d_ esim_vcc esim_vcc sg13_hv_pmos
r1 iin iin_r 330
xm1 net-_m1-d_ net-_m1-d_ esim_vcc esim_vcc sg13_hv_pmos
vv1 iin_r iout_rg  dc 4
xm3 net-_m3-d_ net-_m3-d_ net-_m1-d_ net-_m1-d_ sg13_hv_pmos
.tran 0.1e-03 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
